US06069156
mixture of methyl 3-(3-carboxypropyl)indole-6-carboxylate (173 mg), triphenylphosphine (191 mg) and carbon tetrachloride (1.0 ml) in 1,2-dichloroethane (10 ml) was heated at 80° C. for 2 hours. The resulting mixture was diluted with chloroform and washed with water, aqueous sodium bicarbonate and brine. The organic phase was dried over sodium sulfate and evaporated in vacuo. The residue was purified by silica gel thin layer chromatography with a mixture of hexane and ethyl acetate (4:1) and recrystallized from a mixture of hexane and ethyl acetate to give methyl 8-oxo-5,6,7,8-tetrahydrocarbazole-2-carboxylate (72.2 mg) as colorless crystals.

reactant | methyl 3-(3-carboxypropyl)indole-6-carboxylate | 173 mg | C(=O)(O)CCCC1=CNC2=CC(=CC=C12)C(=O)OC | C14H15NO4
reactant | triphenylphosphine | 191 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 1.0 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl 8-oxo-5,6,7,8-tetrahydrocarbazole-2-carboxylate | 72.2 mg | O=C1CCCC=2C=3C=CC(=CC3NC12)C(=O)OC | C14H13NO3
